US08530478B2
(2S)-1-[(4-Chloro-2-pyridinyl)carbonyl]-2-methyl-4-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine
HATU (411 mg, 1.08 mmol) was added to a solution of 4-chloro-2-pyridinecarboxylic acid (142 mg, 0.90 mmol) in DMF (4 ml) and the mixture was treated with DIPEA (0.394 ml, 2.25 mmol). This mixture was stirred for ca. 10 min at ambient temperature. (3S)-3-Methyl-1-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine (Description 2) (333 mg, 1.082 mmol) was then added and stirring was continued for 1.5 h. The reaction mixture was partitioned between DCM and sat aq. NaHCO3 solution (20 ml each). The layers were separated and the aqueous was washed with further DCM (2×20 ml). The combined organics were concentrated to leave a dark brown gum. Purification by silica chromatography (Biotage SP4, 25S cartridge), eluting with 12-100% ethyl acetate in isohexane, gave a pale yellow gum, shown to be impure by LCMS and NMR analysis. Further purification by MDAP gave the title compound as a colourless glass (159 mg).

reactant | HATU | 1.08 mmol, 411 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-chloro-2-pyridinecarboxylic acid | 0.90 mmol, 142 mg | ClC1=CC(=NC=C1)C(=O)O | C6H4ClNO2
reactant | DIPEA | 2.25 mmol, 0.394 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | (3S)-3-Methyl-1-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine | 1.082 mmol, 333 mg | C[C@H]1CN(CCN1)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C12H15F3N2O2S
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | (2S)-1-[(4-Chloro-2-pyridinyl)carbonyl]-2-methyl-4-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine | 159 mg | ClC1=CC(=NC=C1)C(=O)N1[C@H](CN(CC1)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C | C18H17ClF3N3O3S
